US08629168B2
c) 4-Bromo-oxazolo[5,4-c]pyridine-2-thiol
1.34 g (7.09 mmol) 4-amino-2-bromo-pyridin-3-ol are dissolved in 13 ml EtOH and 1.86 g (11.3 mmol) potassium ethyl xanthogenate are added. This mixture is stirred for 18 h at reflux temperature. After cooling to room temperature, the reaction mixture is concentrated in vacuo and 5 ml water are added. With the addition of acetic acid, a pH of 5 is adjusted. The product starts to crystallize and is filtered off, washed 2× with water and dried to afford the title compound.

reactant | 4-amino-2-bromo-pyridin-3-ol | 7.09 mmol, 1.34 g | NC1=C(C(=NC=C1)Br)O | C5H5BrN2O
reactant | potassium ethyl xanthogenate | 11.3 mmol, 1.86 g | CCOC(=S)[S-].[K+]
solvent | EtOH | 13 ml | CCO | C2H6O
product | 4-Bromo-oxazolo[5,4-c]pyridine-2-thiol | BrC1=NC=CC2=C1OC(=N2)S | C6H3BrN2OS
